US07132436B2
2,3,4-Trichloro-N-[4-(3-chloro-2-thienyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 4-(3-chloro-2-thienyl)-1,3-thiazol-2-amine (59 mg) and 2,3,4-trichlorobenzenesulfonyl chloride (76 mg) as described in the synthetic METHOD B to give a white solid (5.0 mg) with purity >90%: MS (pos) m/z 459.2, 461.2, 463.2.

reactant | 4-(3-chloro-2-thienyl)-1,3-thiazol-2-amine | 59 mg | ClC1=C(SC=C1)C=1N=C(SC1)N | C7H5ClN2S2
reactant | 2,3,4-trichlorobenzenesulfonyl chloride | 76 mg | ClC1=C(C=CC(=C1Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,3,4-Trichloro-N-[4-(3-chloro-2-thienyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC1=C(C=CC(=C1Cl)Cl)S(=O)(=O)NC=1SC=C(N1)C=1SC=CC1Cl | C13H6Cl4N2O2S3
